US20010018525A1
N-methyl-N-(8-phenyloctyl)-3,5-bis(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)-benzamide was prepared as a white solid (0.238 g, 67%) from 3,5-bis-(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)-benzoic acid ethyl ester and N-methyl-N-(8-phenyloctyl)amine using a procedure similar to step 2 of Example 175. 1H NMR (CDCl3) δ7.94 (s, 2H); 7.84 (d, 2H); 7.68-7.56 (m, 4H); 7.44 (s, 2H); 7.30-7.12 (m, 5H); 3.24 (t, 2H); 3.52 and 3.33 (2bt, 2H); 3.40 (t, 2H); 3.08 (2s, 3H); 2.58 (bt, 2H); 1.60 (m, 4H); 1.42-1.12 (m, 8H).

reactant | 3,5-bis-(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)OCCO)C1=CC(=CC=C1)C(F)(F)F)=O | C25H20F6O4
reactant | N-methyl-N-(8-phenyloctyl)amine | CNCCCCCCCCC1=CC=CC=C1 | C15H25N
product | N-methyl-N-(8-phenyloctyl)-3,5-bis(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)-benzamide | CN(C(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)OCCO)C1=CC(=CC=C1)C(F)(F)F)=O)CCCCCCCCC1=CC=CC=C1 | C38H39F6NO3
